US07547787B2
To a 3 L flask, a solution of 1-(mercaptomethyl)cyclopropaneacetic acid (204.5 g) in ethanol (1000 ml) was charged. 96% sulfuric acid (22.73 g) was added, and the reaction mixture was stirred for 3 h at 19-22° C. The reaction mixture was concentrated to ¼ of its volume at 50° C. under reduced pressure, and the residue was partitioned between water (1000 ml) and ethyl acetate (200 ml). The organic phase was separated, washed with 10% NaHCO3 (400 ml), and dried for 2 h over anhydrous sodium sulfate. The mixture was filtered and evaporated at 50° C., under reduced pressure, to afford 197.9 g of the crude 1-(mercaptomethyl)cyclopropaneacetic acid ethyl ester, as a slightly colored liquid with a strong, unpleasant odor.

reactant | 1-(mercaptomethyl)cyclopropaneacetic acid | 204.5 g | SCC1(CC1)CC(=O)O | C6H10O2S
reactant | sulfuric acid | 22.73 g | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 1000 ml | C(C)O | C2H6O
product | 1-(mercaptomethyl)cyclopropaneacetic acid ethyl ester | 197.9 g | C(C)OC(CC1(CC1)CS)=O | C8H14O2S
